US07192978B2
(3R)-3-{[(9-hydroxy-9H-fluoren-9-yl)carbonyl]oxy}-1-methyl-1-(4-oxo-4-phenylbutyl)pyrrolidinium formate
0.575 g (1.858 mmol) of 9-Hydroxy-9H-fluorene-9-carboxylic acid (3R)-1-methylpyrrolidin-3-yl ester (Intermediate I-10) and 1.018 g (5.576 mmol) of 4-chloro-1-phenylbutan-1-one in 6 ml of THF were refluxed for 20 days. After this time THF was poured off, and the residue was washed with THF in order to eliminate the alkylating agent. The product obtained (234 mg) was purified by preparative HPLC-MS to give 65 mg (7%) of the title compound (mixture of two stereoisomers) as a formate.

reactant | 9-Hydroxy-9H-fluorene-9-carboxylic acid (3R)-1-methylpyrrolidin-3-yl ester | 1.858 mmol, 0.575 g | CN1C[C@@H](CC1)OC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)O | C19H19NO3
reactant | 4-chloro-1-phenylbutan-1-one | 5.576 mmol, 1.018 g | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | THF | 6 ml | C1CCOC1 | C4H8O
product | (3R)-3-{[(9-hydroxy-9H-fluoren-9-yl)carbonyl]oxy}-1-methyl-1-(4-oxo-4-phenylbutyl)pyrrolidinium formate | 65 mg, 7% | C(=O)[O-].OC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)O[C@H]1C[N+](CC1)(CCCC(C1=CC=CC=C1)=O)C | InChI=1S/C29H30NO4.CH2O2/c1-30(18-9-16-27(31)21-10-3-2-4-11-21)19-17-22(20-30)34-28(32)29(33)25-14-7-5-12-23(25)24-13-6-8-15-26(24)29;2-1-3/h2-8,10-15,22,33H,9,16-20H2,1H3;1H,(H,2,3)/q+1;/p-1/t22-,30?;/m1./s1
